US05639752
Z. 3-(N-Methylpyrrolidin-2-ylmethyl)-5-(4-trifluoromethyl-2-nitrophenylamino)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole and 4-chloro-3-nitrobenzotrifluoride were used. Triethylamine was used as base, absolute ethanol was used as solvent, and the reaction was heated at reflux for 4.5 hours. Column chromatography afforded the title compound (38%) as a red foam: Rf =0.30 in 9:1:0.1 [methylene chloride/methanol/ammonium hydroxide]; 13C NMR (CDCl3) δ147.0, 139.7, 135.1, 131.6, 131.0, 129.2, 128.5, 124.7, 124.2, 120.7, 118.6, 116.8, 116.6, 113.6, 112.6, 67.1, 57.4, 40.8, 31.3, 29.2, 21.9. FAB LRMS 419 [MH+]. Anal. calcd for C21H21N4O2.0.6 CH2Cl2 : C, 55.27; H, 4.77; N, 11.94. Found: C, 55.44; H 4.58; N 11.52.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | 4-chloro-3-nitrobenzotrifluoride | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 3-(N-Methylpyrrolidin-2-ylmethyl)-5-(4-trifluoromethyl-2-nitrophenylamino)-1H-indole | 38% | CN1C(CCC1)CC1=CNC2=CC=C(C=C12)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C21H21F3N4O2
